US06713471B1
The tert-butyl(6bR,10aS)-5-(4-methoxy-2-methylphenyl)-1,2,6b,9,10,10a-hexahydropyrido[4,3-b][1,4]thiazino[2,3,4-hi]indole-8(7H)-carboxylate (420 mg, 55%) was prepared via coupling of tert-butyl(6bR,10aS)-5-bromo-1,2,6b,9,10,10a-hexahydropyrido[4,3-b][1,4]thiazino[2,3,4-hi]indole-8(7H)-carboxylate (700 mg, 1.70 mmol) with 2-methyl-4-methoxyphenyl boronic acid (424 mg, 2.55 mmol) using the procedure described in Example 450 Step A.

reactant | tert-butyl(6bR,10aS)-5-bromo-1,2,6b,9,10,10a-hexahydropyrido[4,3-b][1,4]thiazino[2,3,4-hi]indole-8(7H)-carboxylate | 1.70 mmol, 700 mg | BrC=1C=C2[C@H]3[C@@H](N4C2=C(C1)SCC4)CCN(C3)C(=O)OC(C)(C)C | C18H23BrN2O2S
reactant | 2-methyl-4-methoxyphenyl boronic acid | 2.55 mmol, 424 mg | CC1=C(C=CC(=C1)OC)B(O)O | C8H11BO3
product | tert-butyl(6bR,10aS)-5-(4-methoxy-2-methylphenyl)-1,2,6b,9,10,10a-hexahydropyrido[4,3-b][1,4]thiazino[2,3,4-hi]indole-8(7H)-carboxylate | 420 mg, 55% | COC1=CC(=C(C=C1)C=1C=C2[C@H]3[C@@H](N4C2=C(C1)SCC4)CCN(C3)C(=O)OC(C)(C)C)C | C26H32N2O3S
